US09301951B2
Intermediate 4.1e: 3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoate (360 mg, 0.58 mmol, 1.00 equiv) in tetrahydrofuran/water (2:3) (35 mL), and lithium hydroxide hydrate (251.2 mg, 5.98 mmol, 10.25 equiv). The resulting solution was stirred overnight at 25° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 50 mL of water adjusted to pH 2-3 with hydrogen chloride (2 mol/L). The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 325 mg (92%) of 3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)-benzoic acid as a yellow oil.

reactant | methyl 3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoate | 0.58 mmol, 360 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(C(=O)OC)C=CC2)C=CC1)(F)F | C34H31F3N4O4
reactant | lithium hydroxide hydrate | 5.98 mmol, 251.2 mg, 10.25 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 35 mL | O1CCCC1.O
product | 3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoic acid | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(C(=O)O)C=CC2)C=CC1)(F)F | C33H29F3N4O4
